US05891901
To a slurry of 0.26 g (6.55 mmole) of NaH (60% oil dispersion) in 10 mL of dried N,N-dimethylformamide, a solution of 6-acetylindole (1.04 g, 6.55 mmole) in 5 mL of dried N,N-dimethylformamide was added at 0°-4° C. After 15 min. stirring at the same temperature, 1.45 g (10.1 mmole) of methyl iodide was added. The new mixture was stirred at the same temperature for 1 hour, poured into ice and water and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated to give 1-(1-methyl-1H-indol-6-yl)-ethanone after chromatographic purification on a silica gel column.

reactant | NaH | 6.55 mmole, 0.26 g | [H-].[Na+]
reactant | 6-acetylindole | 6.55 mmole, 1.04 g | C(C)(=O)C1=CC=C2C=CNC2=C1 | C10H9NO
reactant | methyl iodide | 10.1 mmole, 1.45 g | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(1-methyl-1H-indol-6-yl)-ethanone | CN1C=CC2=CC=C(C=C12)C(C)=O | C11H11NO
